US03957833
42 g of p-[(1,5-dimethylhexyl)oxy]benzoic acid methyl ester is dissolved in 250 ml of benzene and, with stirring, treated dropwise with 50 g of 70% bis(2-methoxy-ethoxy)sodium aluminum hydride. The reaction solution is further stirred at 25°C. for 5 hours and thereafter treated with water. The organic phase is separated off, dried under sodium sulfate, carefully filtered (using a filter aid) and evaporated under reduced pressure. There is obtained a residual of p-[(1,5-dimethylhexyl)oxy]benzyl alcohol; B.P. 180°-182°C/1.0 mmHg.

reactant | p-[(1,5-dimethylhexyl)oxy]benzoic acid methyl ester | 42 g | COC(C1=CC=C(C=C1)OC(CCCC(C)C)C)=O | C16H24O3
reactant | water | O | H2O
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
product | p-[(1,5-dimethylhexyl)oxy]benzyl alcohol | CC(CCCC(C)C)OC1=CC=C(CO)C=C1 | C15H24O2
